US07109354B2
b) 3-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine
The procedure described in Example 3: step b was followed using 2-bromo-3-methyl-phenylamine (185 mg, 1.0 mmol, Example 25: step a), PdCl2(PPh3)2 (70.2 mg, 0.1 mmol), dioxane (3 mL), and Et3N (729 μL, 6 mmol), 4,4,5,5,-tetramethyl-[1,3,2]-dioxaborolane (453 μL, 3 mmol). Purification by preparative SiO2 TLC (25% EtOAc in hexanes) of the residue yielded the title compound (94 mg, 40%) as a yellow solid. ESI-MS (m/z): Calcd. for C13H20BNO2:234.1 (M+H) found: 234.1.

reactant | 2-bromo-3-methyl-phenylamine | BrC1=C(C=CC=C1C)N | C7H8BrN
reactant | Et3N | 6 mmol, 729 μL | CCN(CC)CC | C6H15N
reactant | 4,4,5,5,-tetramethyl-[1,3,2]-dioxaborolane | 3 mmol, 453 μL | CC1(OBOC1(C)C)C | C6H13BO2
catalyst | PdCl2(PPh3)2 | 0.1 mmol, 70.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 94 mg, 40% | CC=1C(=C(C=CC1)N)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
